US05602074
2-[4-Chloro-3-(4-methyl-1,3-dithiolan-2-yl)phenyl]-3-(ethoxycarbonylethylidene)-4,5,6,7-tetrahydro-2H-isoindol -1-one
1.75 g of (ethoxycarbonylmethylene)triphenylphosphorane were added to a solution of 1.90 g of 2-[4-chloro-3-(4-methyl-1,3-dithiolan-2-yl)phenyl]-4,5,6,7-tetrahydro-2H-isoindol-1,3-dione in 50 ml of toluene. The solution obtained was then refluxed for 5 hours, after which a further 5.25 g of (ethoxycarbonylmethylene)triphenylphosphorane were added in two portions. The reaction mixture was refluxed for a total of 6 hours and then cooled to about 25° C. After separating off solid components and solvent, the residue was treated with diisopropyl ether. The substance crystallizing from diisopropyl ether was separated off and the filtrate was chromatographed on silica gel (eluent: CH2Cl2). Yield : 0.7 g of the title compound as an 85:15 E/Z isomer mixture.

reactant | (ethoxycarbonylmethylene)triphenylphosphorane | 1.75 g | C(C)OC(=O)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H21O2P
reactant | 2-[4-chloro-3-(4-methyl-1,3-dithiolan-2-yl)phenyl]-4,5,6,7-tetrahydro-2H-isoindol-1,3-dione | 1.90 g | ClC1=C(C=C(C=C1)N1C(C=2CCCCC2C1=O)=O)C1SCC(S1)C | C18H18ClNO2S2
reactant | (ethoxycarbonylmethylene)triphenylphosphorane | 5.25 g | C(C)OC(=O)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H21O2P
reactant | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 2-[4-Chloro-3-(4-methyl-1,3-dithiolan-2-yl)phenyl]-3-(ethoxycarbonylethylidene)-4,5,6,7-tetrahydro-2H-isoindol -1-one | ClC1=C(C=C(C=C1)N1C(C=2CCCCC2C1=CCC(=O)OCC)=O)C1SCC(S1)C | C23H26ClNO3S2
